US08012986B2
5-[3-(6′-Methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl)-phenyl]-pyridin-2-ylamine
The title compound was prepared from 6′-(3-bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl (example B.12) (0.098 g, 0.25 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.61 g, 0.275 mmol) according to the general procedure III. Obtained as an off-white solid (0.031 g, 31%). MS (ISP) 407.3 [(M+H)+]; mp 124-125° C.

reactant | 6′-(3-bromo-phenyl)-2′-methyl-6-trifluoromethyl-[3,4′]bipyridinyl | 0.25 mmol, 0.098 g | BrC=1C=C(C=CC1)C1=CC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C18H12BrF3N2
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.275 mmol, 0.61 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-[3-(6′-Methyl-6-trifluoromethyl-[3,4′]bipyridinyl-2′-yl)-phenyl]-pyridin-2-ylamine | CC1=CC(=CC(=N1)C=1C=C(C=CC1)C=1C=CC(=NC1)N)C=1C=NC(=CC1)C(F)(F)F | C23H17F3N4
